US07776869B2
Step 1. Synthesis of methyl 5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
To a suspension of 5-chloro-2-hydroxynicotinic acid (2.0 g, 12 mmol) and cesium carbonate (8.2 g, 26 mmol) in 50 mL DMF was added MeI (1.6 ml, 26 mmol). The reaction was allowed to stir for approximately 12 h. The cloudy yellow mixture was added to EtOAc/water. The organic layer was removed and the aqueous layer was extracted three times with EtOAc. The combined organic layers were washed once with water and brine, dried with Na2SO4, filtered, and concentrated to give an orange-yellow solid. The material was partitioned between 1N HCl and EtOAc. The organic layer was washed twice with 1N HCl, dried with Na2SO4, filtered, and concentrated to give the desired product as an orange solid. MS (m/z): 202.0 (M+H)+. Calc'd for C8H8ClNO3: 201.61.

reactant | 5-chloro-2-hydroxynicotinic acid | 12 mmol, 2.0 g | ClC=1C=NC(=C(C(=O)O)C1)O | C6H4ClNO3
reactant | cesium carbonate | 26 mmol, 8.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | MeI | 26 mmol, 1.6 ml | CI | CH3I
reactant | EtOAc water | CCOC(=O)C.O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | ClC=1C=C(C(N(C1)C)=O)C(=O)OC | C8H8ClNO3
